US06521666B1
N-(2,6-Dichlorobenzoyl)-4-(2-formylphenyl)-L-phenylalanine methyl ester (49.1 mg) was dissolved in a mixture of anhydrous MeOH (1 mL) and anhydrous THF (0.5 mL). Aniline (58.8 μL), HCl (53.8 μL of 4M in dioxane) and 3 Å molecular sieves were then added and the mixture was stirred under N2 at room temperature for 1 h. NaCNBH3 (4.06 mg) was added and the mixture was stirred for an additional 72 h. The pH of the mixture was brought to approximately 2 with 1N HCl to quench the reaction. The mixture was diluted with water and neutralized with 1M KOH. This was then extracted with CH2Cl2 and the combined organic extracts were dried (K2CO3) and evaporated. The residue was purified by preparative TLC (silica gel) using CH2Cl2 as eluent to give N-(2,6-dichlorobenzoyl)-4-[2-[(phenylamino)methyl]phenyl]-L-phenylalanine methyl ester (21.2 mg). ESMS: m/z 533 (MH+).

reactant | N-(2,6-Dichlorobenzoyl)-4-(2-formylphenyl)-L-phenylalanine methyl ester | 49.1 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=O)=O | C24H19Cl2NO4
reactant | Aniline | 58.8 μL | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 4M, 53.8 μL | Cl | ClH
reactant | NaCNBH3 | 4.06 mg | [BH3-]C#N.[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | KOH | 1M | [OH-].[K+]
product | N-(2,6-dichlorobenzoyl)-4-[2-[(phenylamino)methyl]phenyl]-L-phenylalanine methyl ester | 21.2 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)CNC1=CC=CC=C1)=O | C30H26Cl2N2O3
